US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[2-(4-Morpholin-4-yl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LXXXIX)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.0 mg, 0.193 mmol) and 4-morpholin-4-yl-benzaldehyde (36.9 mg, 0.193 mmol) were reacted to produce 24 mg (29%) of the title compound. mp: 240-244° C., 1H NMR (300 MHz, DMSO-d6): 12.83 (s, 1H), 8.00 (d, J=8 Hz, 2H), 7.86 (d, J=8 Hz, 1H), 7.66 (s, 1H), 7.16 (s, 1H), 7.06 (d, J=8 Hz, 2H), 6.77 (d, J=8 Hz, 1H), 6.38 (d, J=8 Hz, 1H), 6.33 (s, 2H), 3.88 (br s, 1H), 3.76 (s, 4H), 3.31 (s, 3H), 2.87 (s, 1H), 2.75 (s, 1H), 2.60 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.42 (d, J=8 Hz, 1H). MS: 431 (M+H), HPLC: 1.99 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.193 mmol, 50.0 mg | NC1=NC=CC(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C13H17N5O
reactant | 4-morpholin-4-yl-benzaldehyde | 0.193 mmol, 36.9 mg | N1(CCOCC1)C1=CC=C(C=O)C=C1 | C11H13NO2
product | (1S,2S,3R,4R)-3-[2-(4-Morpholin-4-yl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 24 mg, 29% | N1(CCOCC1)C1=CC=C(C=C1)C1=NC=2C(=NC=CC2N[C@H]2[C@H]([C@@H]3C=C[C@H]2C3)C(=O)N)N1 | C24H26N6O2
